US05432159
Synthesis of N-[(1,2-Dihydro-2-oxo-3-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester (Compound No. 21)
To a stirred solution of 4.0 g (0.016 mol) of L-alanyl-L-proline ethyl ester hydrochloride and 8 ml triethylamine in 200 ml dioxane, maintained at room temperature, a suspension of 3.0 g (0.019 mol) 2-hydroxynicotinoyl chloride in 200 ml anhydrous dioxane is added dropwise over 1 hour. After stirring for a further 3 hours at room temperature, the solvent is distilled off under reduced pressure. The crude product thus obtained is dissolved in 500 ml of chloroform and the solution washed twice with 100 ml of 5% aqueous sodium carbonate. After drying the organic layer over anhydrous magnesium sulfate, the solvent is removed on a rotary evaporator. The solid crystallizes from methylene chloride/isopropyl ether to give 3.4 g of the title compound as a white microcrystalline solid (yield: 64%).

reactant | L-alanyl-L-proline ethyl ester hydrochloride | 0.016 mol, 4.0 g | Cl.C(C)OC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxynicotinoyl chloride | 0.019 mol, 3.0 g | OC1=C(C(=O)Cl)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(1,2-Dihydro-2-oxo-3-pyridinyl)carbonyl]-L-alanyl-L-proline ethyl ester | 3.4 g | C(C)OC([C@H]1N(CCC1)C([C@@H](NC(=O)C=1C(NC=CC1)=O)C)=O)=O | C16H21N3O5
